US05698532
24.2 g (0.091 mol) of (S)-2-(2,4-dichloro-5-methoxyphenoxy)-propionic acid were suspended in a mixture of 150 ml of toluene and 0.5 ml of dimethylformamide and the suspension was stirred under nitrogen. 15.0 ml (0.17 mol) of oxalyl chloride were added, with vigorous evolution of gas occurring. The mixture was stirred for 1 hour to give a homogeneous solution. The solvents were removed by evaporation, the residue was taken up in 100 ml of diethyl ether and the solution was added to a solution of 24.6 g (0.090 mol) of 1-(5-amino-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil in 290 ml of 0.31M sodium hydroxide solution. The heterogeneous mixture was shaken vigorously for 10 minutes to give a white precipitate which was filtered off and washed firstly with water and then with diethyl ether. The crude product was recrystallized from hot methanol to give 33.1 g (69.7%) of 1-[5-[2(S)-(2,4-dichloro-5-methoxyphenoxy)propionamido]-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl]-5-ethyluracil as a white crystalline solid, m.p. 195°-196° C.

reactant | (S)-2-(2,4-dichloro-5-methoxyphenoxy)-propionic acid | 0.091 mol, 24.2 g | ClC1=C(O[C@H](C(=O)O)C)C=C(C(=C1)Cl)OC | C10H10Cl2O4
reactant | oxalyl chloride | 0.17 mol, 15.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(5-amino-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil | 0.090 mol, 24.6 g | NC[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)F)O | C11H16FN3O4
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 0.31M, 290 ml | [OH-].[Na+]
product | 1-[5-[2(S)-(2,4-dichloro-5-methoxyphenoxy)propionamido]-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl]-5-ethyluracil | 33.1 g, 69.7% | ClC1=C(O[C@H](C(=O)NC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C(=O)NC(=O)C(=C2)CC)F)O)C)C=C(C(=C1)Cl)OC | C21H24Cl2FN3O7
